US04423241
Preparation of 2,6-Dichloro-3-nitrobenzylideneaminooxyacetic Acid (Comparative Compound L)
A warm solution of 2,6-dichloro-3-nitrobenzaldehyde, 1.8 gm. in 20 ml. of ethanol was stirred into a solution of 0.9 gm. (0.008 equivs.) of carboxymethoxylamine hemihydrochloride and 0.45 gm. of sodium acetate, anhyd., in 20 ml. of water at room temperature. The mixture was heated on the steam bath for one-half hour, and was then evaporated to dryness at room temperature. The residue was triturated with cold water, filtered, washed with cold water and dried in air to obtain 2.1 gm. (87.4%) of crude material melting at 76°-84° C. This was purified from aqueous-methanol to obtain 1.9 gm. of pale cream-colored product melting at 82°-85° C.

reactant | 2,6-dichloro-3-nitrobenzaldehyde | ClC1=C(C=O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO3
reactant | ethanol | C(C)O | C2H6O
reactant | carboxymethoxylamine hemihydrochloride | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2,6-Dichloro-3-nitrobenzylideneaminooxyacetic Acid | ClC(C(=O)O)ON=CC1=CC(=CC=C1Cl)[N+](=O)[O-] | C9H6Cl2N2O5
